US09255110B2
5-(4-Chloro-2-nitro-phenoxymethyl)-2-triisopropylsilanyl-oxazole was reduced utilizing zinc dust as described in Preparation 20, Step B, to give 100 mg of 5-chloro-2-(2-triisopropylsilanyl-oxazol-5-ylmethoxy)-phenylamine.

reactant | 5-(4-Chloro-2-nitro-phenoxymethyl)-2-triisopropylsilanyl-oxazole | ClC1=CC(=C(OCC2=CN=C(O2)[Si](C(C)C)(C(C)C)C(C)C)C=C1)[N+](=O)[O-] | C19H27ClN2O4Si
catalyst | zinc | [Zn] | Zn
product | 5-chloro-2-(2-triisopropylsilanyl-oxazol-5-ylmethoxy)-phenylamine | 100 mg | ClC=1C=CC(=C(C1)N)OCC1=CN=C(O1)[Si](C(C)C)(C(C)C)C(C)C | C19H29ClN2O2Si
